US07112582B2
Step 4: 4H-5-Thia-1,6a-diazapentalen-2-carbaldehyde
The dry dichloromethane (8 mL) solution of dimethylsulfoxide (2.2 mL) was added dropwise to the dry dichloromethane (110 mL) solution of oxalyl chloride (2.0 mL) at −78° C. The reaction mixture was stirred for 15 min at the same temperature. The dry dichloromethane (40 mL) solution of (4H-5-thia-1,6a-diazapentalen-2-yl)methanol, (1.7 g) was added dropwise to the reaction mixture at −78° C., and stirring was continued for an additional 15 min. The reaction mixture was allowed to warm to −45° C. and stirred for 1 h. Triethylamine (11.3 mL) was added dropwise and the reaction mixture was allowed to warm to 0° C. After 20 min, saturated ammonium chloride solution (50 mL) and water (100 mL) were added and separated. The aqueous layer was extracted with AcOEt (3×150 mL). The combined organic layers were washed with water (200 mL) and brine (200 mL), dried (MgSO4) and filtered. The filtrate was concentrated under reduced pressure. The residue was applied to silica gel column chromatography, then the column was eluted with hexane-AcOEt (1:1). The titled compound was obtained as a yellow solid (1.7 g, quant.).

reactant | oxalyl chloride | 2.0 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (4H-5-thia-1,6a-diazapentalen-2-yl)methanol | 1.7 g | N1=C(C=C2CSCN12)CO | C6H8N2OS
reactant | ammonium chloride | 50 mL | [Cl-].[NH4+]
solvent | water | 100 mL | O | H2O
solvent | Triethylamine | 11.3 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 110 mL | ClCCl | CH2Cl2
solvent | dimethylsulfoxide | 2.2 mL | CS(=O)C | C2H6OS
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
product | 4H-5-Thia-1,6a-diazapentalen-2-carbaldehyde | N1=C(C=C2CSCN12)C=O | C6H6N2OS
